US09193726B2
Step 1. Synthesis of (5S)-5-({[tert-butyl(diphenyl)silyl]oxy}methyl)furan-2(5H)-one (C23)
Imidazole (1.22 g, 17.6 mmol) and tert-butyl(diphenyl)silyl chloride (3.95 mL, 15.4 mmol) were added to a solution of (5S)-5-(hydroxymethyl)furan-2(5H)-one (1.60 g, 14.0 mmol) in N,N-dimethylformamide (50 mL), and the reaction mixture was stirred at room temperature for 18 hours. It was then partitioned between tert-butyl methyl ether and water; the organic layer was washed twice with water, dried over magnesium sulfate, filtered, and concentrated in vacuo. Silica gel chromatography (Gradient: 5% to 30% ethyl acetate in heptane) afforded the product as a white solid. Yield: 5.20 g, quantitative. 1H NMR (400 MHz, CDCl3) δ 7.63-7.66 (m, 4H), 7.38-7.49 (m, 7H), 6.19 (dd, J=5.7, 2.0 Hz, 1H), 5.06-5.10 (m, 1H), 3.93 (dd, half of ABX pattern, J=10.9, 4.5 Hz, 1H), 3.88 (dd, half of ABX pattern, J=10.8, 5.0 Hz, 1H), 1.05 (s, 9H).

reactant | Imidazole | 17.6 mmol, 1.22 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl(diphenyl)silyl chloride | 15.4 mmol, 3.95 mL | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | (5S)-5-(hydroxymethyl)furan-2(5H)-one | 14.0 mmol, 1.60 g | OC[C@@H]1C=CC(O1)=O | C5H6O3
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | (5S)-5-({[tert-butyl(diphenyl)silyl]oxy}methyl)furan-2(5H)-one | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1C=CC(O1)=O | C21H24O3Si
